US07915288B2
BBr3 (2 ml of 1M solution in DCM, 2.0 mmol) is added to a solution of benzyl-ethyl-{1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butyl}-amine (95 mg, 0.21 mmol) in DCM (8 ml) at −78° C. The mixture is allowed to warm to room temperature slowly, and after 2h, the mixture is cooled to 0° C. MeOH (1 ml) and 1N—HCl (20 uL) are added carefully. After heating for 10 min at 80° C., the mixture is cooled and then basified with 1N—NaOH to pH 10. The resulting mixture is extracted with DCM and the combined extracts are washed with saturated brine. Drying over Na2SO4, and removal of the solvent in vacuo gave a yellow residue that is purified by PTLC affording 19 mg of 3-{4-[1-benzyl-ethyl-amino)-butyl]-isoquinolin-1-yl}-2,4-dimethyl-phenol as a white solid.

reactant | BBr3 | 2.0 mmol, 1M, 2 ml | B(Br)(Br)Br | BBr3
reactant | benzyl-ethyl-{1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butyl}-amine | 0.21 mmol, 95 mg | C(C1=CC=CC=C1)N(C(CCC)C1=CN=C(C2=CC=CC=C12)C1=C(C(=CC=C1C)OC)C)CC | C31H36N2O
reactant | HCl | 20 uL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 2,4-dimethyl-phenol | CC1=C(C=CC(=C1)C)O | C8H10O
